**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Thick Film Resistors
* Matchcode:             WRIS-RSKS
* Library Type:          LTspice
* Version:               rev23a
* Created/modified by:   Ella
* Date and Time:         10/10/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2023 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt 0402_560112110034_10ohm 1 2
R 1 3 10
Lser 3 2 0.05n
Cpar 1 2 0.13p
.ends 0402_560112110034_10ohm
*******
.subckt 0402_560112110022_100ohm 1 2
R 1 3 100
Lser 3 2 0.05n
Cpar 1 2 0.18p
.ends 0402_560112110022_100ohm
*******
.subckt 0402_560112110012_1000ohm 1 2
R 1 3 1000
Lser 3 2 0.05n
Cpar 1 2 0.18p
.ends 0402_560112110012_1000ohm
*******
.subckt 0402_560112110020_10000ohm 1 2
R 1 3 10000
Lser 3 2 0.05n
Cpar 1 2 0.211p
.ends 0402_560112110020_10000ohm
*******
.subckt 0603_560112116013_10ohm 1 2
R 1 3 10
Lser 3 2 0.53n
Cpar 1 2 0.13p
.ends 0603_560112116013_10ohm
*******
.subckt 0603_560112116009_100ohm 1 2
R 1 3 100
Lser 3 2 0.53n
Cpar 1 2 0.25p
.ends 0603_560112116009_100ohm
*******
.subckt 0603_560112116014_1000ohm 1 2
R 1 3 1000
Lser 3 2 0.53n
Cpar 1 2 0.26p
.ends 0603_560112116014_1000ohm
*******
.subckt 0603_560112116005_10000ohm 1 2
R 1 3 10000
Lser 3 2 0.53n
Cpar 1 2 0.26p
.ends 0603_560112116005_10000ohm
*******
.subckt 0805_560112120008_10ohm 1 2
R 1 3 10
Lser 3 2 0.33n
Cpar 1 2 0.211p
.ends 0805_560112120008_10ohm
*******
.subckt 0805_560112120020_100ohm 1 2
R 1 3 100
Lser 3 2 0.33n
Cpar 1 2 0.241p
.ends 0805_560112120020_100ohm
*******
.subckt 0805_560112120004_10000ohm 1 2
R 1 3 10000
Lser 3 2 0.33n
Cpar 1 2 0.32p
.ends 0805_560112120004_10000ohm
*******
.subckt 1206_560112132039_10ohm 1 2
R 1 3 10
Lser 3 2 0.41n
Cpar 1 2 0.3p
.ends 1206_560112132039_10ohm
*******
.subckt 1206_560112132023_100ohm 1 2
R 1 3 100
Lser 3 2 0.41n
Cpar 1 2 0.3p
.ends 1206_560112132023_100ohm
*******
.subckt 1206_560112132038_1000ohm 1 2
R 1 3 1000
Lser 3 2 0.41n
Cpar 1 2 0.3p
.ends 1206_560112132038_1000ohm
*******
.subckt 1206_560112132018_10000ohm 1 2
R 1 3 10000
Lser 3 2 0.41n
Cpar 1 2 0.44p
.ends 1206_560112132018_10000ohm
*******
