*$
* LM43600
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM43600
* Date: 07AUG2014
* Model Type: AVERAGE
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SNVSA43 – AUGUST 2014
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
****************************************************************************
.SUBCKT LM43600_AVG FB PGND_1 PGND_2 VIN_1 VIN_2 
+ CBOOT EN RT VCC SYNC PAD SW_1 SW_2 AGND BIAS 
+ PGOOD SS/TRK  PARAMs: FS=1000k L=3.3u
R_VIN_1    VIN VIN_1 1n
R_VIN_2    VIN VIN_1 1n
R_PGND1   PGND_2 GND 1n
R_AGND   AGND GND 1n
R_PGND2   PGND_1 GND 1n
R_CBOOT   CBOOT  GND 1G
R_CBOOT1   CBOOT  GND 1G
R_ENABLE  EN GND 1G
R_ENABLE1  EN GND 1G
R_RT      RT GND 1G
R_RT1      RT GND 1G
R_VCC     VCC GND 1G
R_VCC1     VCC GND 1G
R_SYNC    SYNC GND 1G
R_SYNC1    SYNC GND 1G
R_DAP     PAD GND 1G
R_DAP1     PAD GND 1G
R_SW1     SW_1 SW 1n
R_SW2     SW_1 SW 1n
R_BIAS    BIAS GND 1G
R_BIAS1    BIAS GND 1G
R_PGOOD   PGOOD GND 1G
R_PGOOD1   PGOOD GND 1G
R_SS_TRK  SS/TRK GND 1G 
R_SS_TRK1  SS/TRK GND 1G  

C_C11         GND COMP  5p  TC=0,0 
G_G2         GND COMP N16696208 FB 10u
V_V7         N16696208 GND 1
X_U3         VIN SW GND COMP N16635596 CCMDCMCM PARAMS:  L={L} FS={FS} RI=0.6
+  SA={0.6*{FS}*1.5}
R_R14         N16635978 COMP  400k TC=0,0 
C_C7         GND N16635978  50p  TC=0,0 
R_R13         GND COMP  792Meg TC=0,0 
C_C8         GND COMP  2p  TC=0,0 
.ENDS LM43600_AVG
        
.SUBCKT ccmdcmcm a c p vc dc params: L=35u Fs=200k Ri=.6 SA=1.99
*
* DCM/CCM, current-mode
*
Edc dcx 0 value = { v(d2)*v(cx,p)/(v(a,p)-v(cx,p)+1u) }
Xdc dcx dc l1 params: clampH={1-{200n*{FS}}} clampL={120n*{FS}}
Ed2 d2X 0 value = { (2*{L}*{Fs}*I(VM)/(V(dc)*V(a,cx)+1u)) - V(dc) }
Xd2 d2X dc d2 l2
GIap a p value = { (V(dc)/(V(dc)+V(d2)+1u))*I(VM) }
GIpc p cx value = { V(vc)/{Ri} }
GImju cx p value = {{SA}*V(dc)/({Ri}*{Fs}) + (v(cx,p)/{L})*V(d2)*{1/Fs}*(1-(V(dc)+V(d2))/2) }
VM cx c
XC1 cx p mode VAC ; 
Emode mode 0 Value = { IF ((2*{L}*{Fs}*I(VM)/(V(dc)*V(a,cx)+1u))
+ < 1, 1p , {4/((L)*(6.28*Fs)^2)}) } ; 
.ENDS
*$      
.subckt l1 d dc params: clampH=0.99 clampL=16m
Gd 0 dcx VALUE = { V(d)*100u }
Rdc dcx 0 10k
V1 clpn 0 {clampL}
V2 clpp 0 {clampH}
D1 clpn dcx dclamp
D2 dcx clpp dclamp
Edc dc 0 value={ V(dcx) }
.model dclamp d n=0.01 rs=100m
.ENDS
*$
********
.subckt l2 d2nc d d2c
*
Gd 0 d2cx d2nc 0 100u
Rdc d2cx 0 10k
V1 clpn 0 7m
E2 clpp 0 Value = { 1-V(d) }
D1 clpn d2cx dclamp
D2 d2cx clpp dclamp
Edc d2c 0 value={ V(d2cx) }
.model dclamp d n=0.01 rs=100m
.ENDS
*$
********
.SUBCKT VAC 1 2 CTRL
R1 1 3 1u
VC 3 4
EBC 4 2 Value = { (1/v(ctrl))*v(int) }
GINT 0 INT Value = { I(VC) }
CINT INT 0 1
Rdum INT 0 10E10
.ENDS
*$
*
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 
L             IN 1  {L} 
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=1 
C	IN 1  {C*X} 
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
